US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester (12 g) is dissolved in a mixture of 500 ml THF and 400 ml ethanol. 60 ml 1M sodium hydroxide is added and the mixture is stirred for 20 hours. After aqueous work-up and crystallization from ethanol/water, 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid (11.26 g) is obtained. Melting point: 181-184° C. 1H-NMR (CDCl3, 300 MHz): δ=5.34 (1H, s); 3.19 (1H, m); 0.9 (9H, s); 0.04 (6H, m).

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester | 12 g | COC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C33H56O3Si
reactant | sodium hydroxide | 1M, 60 ml | [OH-].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid | 11.26 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
